US05225442
Stage E: (7-Methoxynaphth-1-Yl)Acetamide
The (7-methoxynaphth-1-yl)acetyl chloride obtained above is dissolved in 200 ml of anhydrous ether. After cooling the solution in an ice/salt bath, 200 ml of concentrated aqueous ammonia solution are added with agitation. The mixture is agitated for 30 minutes and the precipitate formed is spun down and recrystallized in ethanol.

reactant | (7-methoxynaphth-1-yl)acetyl chloride | COC1=CC=C2C=CC=C(C2=C1)CC(=O)Cl | C13H11ClO2
reactant | ammonia | 200 ml | N | H3N
solvent | ether | 200 ml | CCOCC | C4H10O
product | (7-Methoxynaphth-1-Yl)Acetamide | COC1=CC=C2C=CC=C(C2=C1)CC(=O)N | C13H13NO2
